US07696210B2
In a round bottom flask under nitrogen was combined 3-Fluoro-4-nitrotoluene (15 g, 96.7 mMol), N-bromosuccinimide (37.9 g, 212.7 mMol), and carbon tetrachloride (300 mL). The mixture was stirred at room temperature and benzoyl peroxide added (2.34 g, 9.67 mMol). A water-cooled reflux condenser was attached and the solution heated to reflux and stirred overnight. Upon arrival the solution was cooled to room temperature, diluted with dichloromethane (300 mL) and washed with 1N sodium hydroxide solution (2×200mL). The organic layer was then washed with water (200 mL) and concentrated to dryness on a rotary evaporator. The crude material was then redissolved in dioxane (450 mL) and water (50 mL) and stirred at room temperature. Silver nitrate (65.7 g, 387 mMol) was added and the material allowed to stir overnight. Upon arrival the reaction mixture was filtered and the solids washed with ethyl acetate. The filtrate was extracted with ethyl acetate (3×200 mL). The organics were dried with magnesium sulfate, filtered, and concentrated on a rotary evaporator. Purification by flash column silica gel chromatography 30% ethyl acetate in hexane as the eluant yielded a still impure product that was recolumned using 50% dichloromethane in hexane to give 5.7 g (35% yield) of 3-Fluoro-4-nitro-benzaldehyde. 1H NMR (DMSO-d6): δ=10.09 (s, 1H), 8.36 (m, 1H), 8.07 (dd, 1H, J=11, 1.5 Hz), 7.96 (dd, 1H, J=8.3, 1.5 Hz).

reactant | 3-Fluoro-4-nitrotoluene | 96.7 mMol, 15 g | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
reactant | N-bromosuccinimide | 212.7 mMol, 37.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | carbon tetrachloride | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
catalyst | Silver nitrate | 387 mMol, 65.7 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | O | H2O
product | 3-Fluoro-4-nitro-benzaldehyde | 5.7 g, 35% yield | FC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H4FNO3
